US06235731B1
To a solution of 0.410 g (2.467 mM) of (R)-2-hydroxymethyl-1,4-benzodioxane and 0.52 ml (3.70 mM) of triethylamine in 30 ml of diethyl ether was added 0.21 ml (2.71 mM) of methanesulfonyl chloride dropwise with ice-cooling and the mixture was stirred for 0.5 hour. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 2 portions of ethyl acetate. The organic layers were combined and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was passed through a short silica gel column (hexane-ethyl acetate=3/1 to 2/1) to provide crude (S)-2-methanesulfonyloxymethyl-1,4-benzodioxane.

reactant | (R)-2-hydroxymethyl-1,4-benzodioxane | 2.467 mM, 0.410 g | OC[C@@H]1COC2=C(O1)C=CC=C2 | C9H10O3
reactant | triethylamine | 3.70 mM, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.71 mM, 0.21 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (S)-2-methanesulfonyloxymethyl-1,4-benzodioxane | CS(=O)(=O)OC[C@@H]1COC2=C(O1)C=CC=C2 | C10H12O5S
